US09260412B2
Preparation of potassium (2Z)-3-cyano-1-ethoxy-1-oxobut-2-en-2-olate
3.84 g potassium 2-methylpropan-2-olate (34.2 mmol, 1.0 eq.) and 723 mg 18-crown-6 (2.74 mmol, 0.08 eq.) were dissolved in THF and 5.00 g diethyl oxalate (34.2 mmol, 1.0 eq.) were added within 5 minutes. The reaction mixture was heated to 60° C. and 1.88 g propiononitrile (34.2 mm ol, 1.0 eq.) were added within 5 minutes. The reaction was stirred at 60° C. for 1 hour. The solid was filtered off, dried in vacuo at 50° C. to provide 5.11 g (26.4 mmol, 77%) of the crude product which was used without further purification.

reactant | potassium 2-methylpropan-2-olate | 34.2 mmol, 3.84 g, 1.0 eq. | CC(C)(C)[O-].[K+]
reactant | 18-crown-6 | 2.74 mmol, 723 mg, 0.08 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | diethyl oxalate | 34.2 mmol, 5.00 g, 1.0 eq. | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | propiononitrile | 1.88 g, 1.0 eq. | C(CC)#N | C3H5N
solvent | THF | C1CCOC1 | C4H8O
product | potassium (2Z)-3-cyano-1-ethoxy-1-oxobut-2-en-2-olate | 26.4 mmol, 5.11 g, 77% | C(#N)\C(=C(\C(=O)OCC)/[O-])\C.[K+] | InChI=1S/C7H9NO3.K/c1-3-11-7(10)6(9)5(2)4-8;/h9H,3H2,1-2H3;/q;+1/p-1/b6-5-;
